US04049813
A mixture of 26.1 g. (0.0815 mole) of N-methyl-5-(4-methylphenacyl)-3-phenyl-4-isoxazole carboxamide and 261 ml. of 2M sulfuric acid is refluxed for 24 hours. The mixture is cooled and extracted with methylene chloride. The methylene chloride layer is washed with water and then brine, dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue is triturated with ether and then recrystallized from ethanol to give 5-methyl-3-phenyl-6-(p-tolyl)-isoxazolo [4,5-c]pyridin-4(5H)-one; m.p. 155° to 156° C.

reactant | N-methyl-5-(4-methylphenacyl)-3-phenyl-4-isoxazole carboxamide | 0.0815 mole | CNC(=O)C=1C(=NOC1CC(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C20H18N2O3
reactant | sulfuric acid | 2M | S(O)(O)(=O)=O | H2O4S
product | 5-methyl-3-phenyl-6-(p-tolyl)-isoxazolo [4,5-c]pyridin-4(5H)-one | CN1C(C2=C(C=C1C1=CC=C(C=C1)C)ON=C2C2=CC=CC=C2)=O | C20H16N2O2
